US06794387B2
2-Ethoxy-5-iodonicotinamide
Oxalyl chloride (6.60 ml, 75.1 mmol) was added to a solution of 2-ethoxy-5-iodonicotinic acid (prepared according to the procedure in WO0127112, 20.0 g, 68.3 mmol) in DCM (400 ml) and N,N-dimethylformamide (0.1 ml) at 0° C. The solution was warmed to room temperature over 18 h and then concentrated in vacuo. The resultant orange oil was dissolved in THF (200 ml) and cooled to 0° C. NH3 (410 ml of a 0.5 M soln. in dioxane, 205 mmol) was added and the mixture was warmed to room temperature over 4 h. The reaction mixture was concentrated in vacuo and triturated with water (150 ml). The solid was filtered and dried to afford the title compound as a beige solid (18.9 g, 64.9 mmol, 95%); m.p. 176-179° C.

reactant | Oxalyl chloride | 75.1 mmol, 6.60 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-ethoxy-5-iodonicotinic acid | C(C)OC1=C(C(=O)O)C=C(C=N1)I | C8H8INO3
reactant | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
solvent | DCM | 400 ml | C(Cl)Cl | CH2Cl2
product | 2-Ethoxy-5-iodonicotinamide | 64.9 mmol, 18.9 g, 95% | C(C)OC1=C(C(=O)N)C=C(C=N1)I | C8H9IN2O2
